US08034953B2
Step 1. 4-Amino-N-(3-bromo-4-fluorophenyl)-1,2,5-thiadiazole-3-carboxamide
A solution of 4-amino-1,2,5-thiadiazole-3-carboxylic acid (250 mg, 1.7 mmol) and 3-bromo-4-fluoroaniline (393 mg, 2.1 mmol) in N,N-dimethylformamide (5 mL) was treated with O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (784 mg, 2.1 mmol) followed by N,N-diisopropylethylamine (0.36 mL, 2.1 mmol) and stirred for 16 h. The reaction mixture was diluted with brine (50 mL) and 0.1 N HCl (100 mL) and extracted with ethyl acetate (2×150 mL). The combined organic extracts were washed with brine (50 mL), dried with sodium sulfate, filtered, and concentrated. Purification of the crude reaction mixture on silica gel gave the desired product (414 mg, 76%). LCMS for C9H7BrFN4OS(M+H)+: m/z=316.9, 318.8.

reactant | 4-amino-1,2,5-thiadiazole-3-carboxylic acid | 1.7 mmol, 250 mg | NC=1C(=NSN1)C(=O)O | C3H3N3O2S
reactant | 3-bromo-4-fluoroaniline | 2.1 mmol, 393 mg | BrC=1C=C(N)C=CC1F | C6H5BrFN
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.1 mmol, 784 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 2.1 mmol, 0.36 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | HCl | 0.1 N, 100 mL | Cl | ClH
product | 4-Amino-N-(3-bromo-4-fluorophenyl)-1,2,5-thiadiazole-3-carboxamide | 414 mg, 76% | NC=1C(=NSN1)C(=O)NC1=CC(=C(C=C1)F)Br | C9H6BrFN4OS
